### PR TITLE
Decoder: proof of adjointness, reverse direction

### PR DESCRIPTION
**Pull request by atondwal**
cf  #672

### CODE REVIEW

**Comment by atondwal** [comment]
cf  #672

File: cava/Cava/Lib/DecoderProperties.v [hunk 1]
```diff
@@ -193,3 +197,195 @@ Proof.
...
+  }
+Qed.
+
+Theorem map_ext_guard
+  (A B : Type) (f g : A -> B)
+  (P : A -> Prop)
+  (ext : forall a : A, P a ->  f a = g a)
+  (n : nat) (v : VectorDef.t A n)
+  (Guard: forall a : A, InV a v -> P a)
+  : VectorDef.map f v = VectorDef.map g v.
```
Comment (blaxill) [inline cava/Cava/Lib/DecoderProperties.v:224]: I think `VectorDef` here is the same as using `Vector`. Although its just a module name alias in Coq, Haskell doesn't like extractions that contain mixed usage of `VectorDef` and `Vector`.

File: cava/Cava/Lib/DecoderProperties.v [hunk 2]
```diff
@@ -193,3 +197,195 @@ Proof.
...
+    reflexivity.
+    }
+  { intros. apply Guard.
+    cbn. right.  assumption. }
+Qed.
+
+Lemma N_lt_step a : (N.of_nat a < N.of_nat (S a))%N.
+Proof. rewrite Nat2N.inj_succ. apply N.lt_succ_diag_r. Qed.
+
+Lemma N_lt_inj a b : a < b -> (N.of_nat a < N.of_nat b)%N.
```
Comment (jadephilipoom) [inline cava/Cava/Lib/DecoderProperties.v:242]: This proof might be easier using `Nat2N.inj_compare`, `Nat.compare_lt_iff`, and `N.compare_lt_iff`.

File: cava/Cava/Lib/DecoderProperties.v [hunk 3]
```diff
@@ -193,3 +197,195 @@ Proof.
...
+            { rewrite <- eq. apply Nat.lt_succ_diag_r. }
+          }
+          { apply N_lt_step. }
+        }
+      }
+    }
+  }
+Qed.
+
+Theorem dec_enc_inv (n:nat) (k : {i: nat | i < 2^n}):
```
Comment (jadephilipoom) [inline cava/Cava/Lib/DecoderProperties.v:271]: Why a sigma type here? The proof will likely be easier to apply later with the proof and `nat` separate, e.g.:
```suggestion
Theorem dec_enc_inv (n:nat) (k : nat):
  k < 2^n ->
```
This way, if you _do_ have a sigma type in context, you can still use the lemma with `k:=proj1_sig x` and then prove the side condition with `proj2_sig x`. But you wouldn't need to construct a sigma type in order to use the lemma if that's not what your context looks like.

File: cava/Cava/Util/Bool.v [hunk 4]
```diff
@@ -23,3 +23,8 @@ Proof.
     exfalso.
     apply notQ. apply H. trivial. }
 Qed.
+
+Lemma dec_contrapositive {A decider}
```
Comment (jadephilipoom) [inline cava/Cava/Util/Bool.v:27]: Might be a good idea to use `coqutil`'s `BoolSpec` for this one; it'll get picked up by nice automation like the `destr` tactic.

**Review by jadephilipoom — APPROVED** [review]
LGTM

File: cava/Cava/Lib/DecoderProperties.v (hunk 2 above)
Comment (atondwal) [reply cava/Cava/Lib/DecoderProperties.v:242]: Hmm, somehow `Search Nat.lt` didn't give me anything useful ... thanks!
